US05480873
1) 9,10-Dihydro-4,5-dihydroxy-9,10-dioxoanthracene-2-aldehyde
To aloe-emodin (5.0 g) in dry dimethyl sulphoxide (55 ml) and triethylamine (77 ml) was added a solution/suspension of sulphur trioxide-pyridine complex (29.4 g) in dry dimethyl sulphoxide (100 ml), dropwise with stirring, over 15 minutes. The addition was slightly exothermic and gave a dark brown solution, which was stirred at room temperature for 2-3 hours, then poured onto dilute hydrochloric acid (1000 ml, 0.5M), stirred for 15 minutes, then left to stand for 15 minutes. The suspension was filtered (slow), washed with water (400 ml) and pulled dry to leave a brown solid. Dried at 50° C. in a vacuum oven, m.p. 198°-200° C.

reactant | aloe-emodin | 5.0 g | C1=CC2=C(C(=C1)O)C(=O)C3=C(C=C(C=C3O)CO)C2=O | C15H10O5
reactant | hydrochloric acid | 0.5M, 1000 ml | Cl | ClH
solvent | dimethyl sulphoxide | 55 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 77 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 9,10-Dihydro-4,5-dihydroxy-9,10-dioxoanthracene-2-aldehyde | OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O)C=O | C15H8O5
